US08309577B2
To a stirring solution of 1,1′-thiocarbonyldipyridin-2(1H)-one (124.6 mg, 0.536 mmol) in dichloromethane (3 mL) was added a suspension of 6,7-dimethoxyisoquinolin-3-amine (105 mg, 0.514 mmol) in dichloromethane (5 mL). The reaction mixture was applied directly to a Biotage column in 15-25% ethyl acetate/hexane followed by 100% ethyl acetate to give 3-isothiocyanato-6,7-dimethoxyisoquinoline as a white solid. Yield 69.4 mg (55%) NMR 1H NMR (500 MHz, CHLOROFORM-d) δ ppm 8.81 (1H, s), 7.31 (1H, s), 7.16 (1H, s), 6.98 (1H, s), 3.99 (6H, s)

reactant | 1,1′-thiocarbonyldipyridin-2(1H)-one | 0.536 mmol, 124.6 mg | C(=S)(N1C(C=CC=C1)=O)N1C(C=CC=C1)=O | C11H8N2O2S
reactant | 6,7-dimethoxyisoquinolin-3-amine | 0.514 mmol, 105 mg | COC=1C=C2C=C(N=CC2=CC1OC)N | C11H12N2O2
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
solvent | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
product | 3-isothiocyanato-6,7-dimethoxyisoquinoline | N(=C=S)C=1N=CC2=CC(=C(C=C2C1)OC)OC | C12H10N2O2S
